US07662831B2
Following the procedure of Block et al. (J. Med. Chem. 2002, 45, 3509), 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline (1 g, 4.4 mmol) was stirred in concentrated sulfuric acid (12 mL) at 0° C. for 30 min and then KNO3 (0.45 g, 4.4 mmol) was introduced in portions. The reaction mixture was stirred for 2 hours at 0° C. and was then poured into ice water and extracted with ethyl acetate. The combined organic extracts were dried over MgSO4 and concentrated to give 0.95 g of 2-nitro-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline as a brown solid. MS (ESI) m/z 271

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline | 4.4 mmol, 1 g | C1=CC=C2CCCN3C2=C1C1=C3CCCCC1 | C16H19N
reactant | KNO3 | 4.4 mmol, 0.45 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline | 0.95 g | [N+](=O)([O-])C=1C=C2CCCN3C2=C(C1)C1=C3CCCCC1 | C16H18N2O2
